US06008229
To a mixture of 1-(3-tert-butyldiphenylsilyloxymethyl-2,4-dichlorophenyl)-2-cyanopyrrole (900 mg) and silicic acid (100 mg) in carbon tetrachloride (15 ml) was added a solution of tert-butyl hypochlorite (222 mg) in carbon tetrachloride (10 ml) in water bath, and the mixture was stirred for 30 minutes at the same temperature. The reaction mixture was filtered, and the filtrate was evaporated in vacuo. The residue was purified by silica gel column chromatography eluting with a mixture of n-hexane and ethyl acetate (15:1, V/V) to give 1-(3-tert-butyldiphenylsilyloxymethyl-2,4-dichlorophenyl)-4-chloro-2-cyanopyrrole (290 mg) as an oil.

reactant | 1-(3-tert-butyldiphenylsilyloxymethyl-2,4-dichlorophenyl)-2-cyanopyrrole | 900 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C(=C(C=CC1Cl)N1C(=CC=C1)C#N)Cl | C28H26Cl2N2OSi
reactant | silicic acid | 100 mg | [Si](O)(O)(O)O | H4O4Si
reactant | tert-butyl hypochlorite | 222 mg | ClOC(C)(C)C | C4H9ClO
solvent | carbon tetrachloride | 15 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | O | H2O
product | 1-(3-tert-butyldiphenylsilyloxymethyl-2,4-dichlorophenyl)-4-chloro-2-cyanopyrrole | 290 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C(=C(C=CC1Cl)N1C(=CC(=C1)Cl)C#N)Cl | C28H25Cl3N2OSi
